US09079878B2
N-Methoxy-N-methyl-4-(pentafluoro-λ6-sulfanyl)benzamide
4-(Pentafluoro-λ6-sulfanyl)benzoyl chloride (1.00 g, 3.751 mmol), O,N-dimethyl-hydroxylamine hydrochloride (0.402 g, 4.13 mmol), and triethylamine (0.835 g, 8.25 mmol) were stirred in dichloromethane for 2 hours at room temperature. The reaction was concentrated in vacuo and diethyl ether added. The solid was collected by filtration and purified by silica gel column chromatography to afford the title compound as a solid (0.557 g, 51% yield).

reactant | 4-(Pentafluoro-λ6-sulfanyl)benzoyl chloride | 3.751 mmol, 1.00 g | FS(C1=CC=C(C(=O)Cl)C=C1)(F)(F)(F)F | C7H4ClF5OS
reactant | O,N-dimethyl-hydroxylamine hydrochloride | 4.13 mmol, 0.402 g | Cl.CONC
reactant | triethylamine | 8.25 mmol, 0.835 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-Methoxy-N-methyl-4-(pentafluoro-λ6-sulfanyl)benzamide | 0.557 g, 51% yield | CON(C(C1=CC=C(C=C1)S(F)(F)(F)(F)F)=O)C | C9H10F5NO2S
